US08080566B1
A 100-mL round-bottom flask was a solution of methyl 2-aminobenzoate (1 g, 6.62 mmol, 1.00 equiv) in HCl (30%, 10 mL). To this solution was added a solution of NaNO2 (500 mg, 7.25 mmol, 1.02 equiv) in H2O (10 mL) dropwise at 0° C. over 5 minutes. The resulting mixture was stirred at 0° C. for 30 minutes. Then, a solution of SnCl2.2H2O (2.75 g, 12.19 mmol, 2.00 equiv) in HCl (30%) (12 mL) was added dropwise at 0° C. The resulting solution was stirred for an additional 2 hours at room temperature. The solids were collected by filtration and washed with H2O (2×20 mL) affording methyl 2-hydrazinylbenzoate as white solid (0.6 g, 55%).

reactant | methyl 2-aminobenzoate | 6.62 mmol, 1 g, 1.00 equiv | NC1=C(C(=O)OC)C=CC=C1 | C8H9NO2
reactant | NaNO2 | 7.25 mmol, 500 mg, 1.02 equiv | N(=O)[O-].[Na+]
reactant | SnCl2.2H2O | 12.19 mmol, 2.75 g, 2.00 equiv | O.O.Cl[Sn]Cl
solvent | HCl | 10 mL | Cl | ClH
solvent | H2O | 10 mL | O | H2O
solvent | HCl | 12 mL | Cl | ClH
product | methyl 2-hydrazinylbenzoate | 0.6 g, 55% | N(N)C1=C(C(=O)OC)C=CC=C1 | C8H10N2O2
